US07750001B2
A mixture of 6-chloro-2-(2-difluoromethylbenzimidazol-1-yl)-4-morpholino-1,3,5-triazine (3.66 g, 10 mmol), 1-acetylpiperazine (1.40 g, 11 mmol), potassium carbonate (1.38 g, 10 mmol) and DMF (30 ml) was stirred at room temperature for 16 hours. The reaction mixture was poured into water, and extracted with dichloromethane. The extract was dried over anhydrous sodium sulfate, concentrated under vacuum, and the residue was purified by silica gel column to obtain 4-(4-acetylpiperazin-1-yl)-2-(2-difluoromethylbenzimidazol-1-yl)-6-morpholino-1,3,5-triazine (4.08 g, 9.0 mmol) in a yield of 90% as colorless crystals.

reactant | 6-chloro-2-(2-difluoromethylbenzimidazol-1-yl)-4-morpholino-1,3,5-triazine | 10 mmol, 3.66 g | ClC1=NC(=NC(=N1)N1C(=NC2=C1C=CC=C2)C(F)F)N2CCOCC2 | C15H13ClF2N6O
reactant | 1-acetylpiperazine | 11 mmol, 1.40 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(4-acetylpiperazin-1-yl)-2-(2-difluoromethylbenzimidazol-1-yl)-6-morpholino-1,3,5-triazine | 9.0 mmol, 4.08 g, yield of 90% | C(C)(=O)N1CCN(CC1)C1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C21H24F2N8O2
